US04367238
3-[2-Methoxy-3-(2-chlorophenoxy)phenyl]propionic acid (5.0 g) was dissolved in a mixture of 48% hydriodic acid (30 ml) and acetic anhydride (15 ml). The mixture was treated in a similar manner to that of Example 1-(5) and recrystallized from a mixture of benzene and n-hexane to give colorless crystals of 3-[2-hydroxy-3-(2-chlorophenoxy)phenyl]propionic acid (2.0 g). mp 90°-92° C.

reactant | 3-[2-Methoxy-3-(2-chlorophenoxy)phenyl]propionic acid | 5.0 g | COC1=C(C=CC=C1OC1=C(C=CC=C1)Cl)CCC(=O)O | C16H15ClO4
solvent | hydriodic acid | 30 ml | I | HI
solvent | acetic anhydride | 15 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 3-[2-hydroxy-3-(2-chlorophenoxy)phenyl]propionic acid | 2.0 g | OC1=C(C=CC=C1OC1=C(C=CC=C1)Cl)CCC(=O)O | C15H13ClO4
